US05436257
9(a) 1-(4-Aminophenoxy)propan-2-one hydrochloride
A stream of hydrogen was passed through a mixture comprising 19.6 g of 1-(4-nitrophenoxy)propan-2-one, 300 ml of methanol, 30 ml of concentrated aqueous hydrochloric acid and 4 g of 10% w/v palladium-on-charcoal at room temperature for 5 hours. At the end of this time, the catalyst was filtered off, and the filtrate was concentrated by evaporation under reduced pressure, to give 20 g of the title compound. This compound was used directly and without further purification in the next step.

reactant | hydrogen | [H][H] | H2
reactant | 1-(4-nitrophenoxy)propan-2-one | 19.6 g | [N+](=O)([O-])C1=CC=C(OCC(C)=O)C=C1 | C9H9NO4
reactant | hydrochloric acid | 30 ml | Cl | ClH
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | 300 ml | CO | CH4O
product | 1-(4-Aminophenoxy)propan-2-one hydrochloride | 20 g | Cl.NC1=CC=C(OCC(C)=O)C=C1 | InChI=1S/C9H11NO2.ClH/c1-7(11)6-12-9-4-2-8(10)3-5-9;/h2-5H,6,10H2,1H3;1H
